US08119676B2
(6-Cyano-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid (VIIIc)
tert-Butyl 3-(tert-butoxycarbonylphenylmethyl)-5-cyano-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate 695 mg (1.55 mmol) of tert-butyl 3-(tert-butoxycarbonylphenylmethyl)-5-cyano-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIIc) were dissolved in dichloromethane (30 ml) and, while stirring at room temperature, trifluoroacetic acid (20 ml) was added. The reaction solution was stirred for 2 h and then the solvent and excess trifluoroacetic acid were removed in vacuo. The residue was taken up again in toluene, concentrated in vacuo and then dried in vacuo. Yield: 449 mg (99%) of white solid

reactant | tert-Butyl 3-(tert-butoxycarbonylphenylmethyl)-5-cyano-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate | 1.55 mmol, 695 mg | C(C)(C)(C)OC(=O)C(N1C(N(C2=C1C=C(C=C2)C#N)C(=O)OC(C)(C)C)=O)C2=CC=CC=C2 | C25H27N3O5
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (6-Cyano-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid | C(#N)C=1C=CC2=C(N(C(N2)=O)C(C(=O)O)C2=CC=CC=C2)C1 | C16H11N3O3
